US04684639
(a) N-Benzyloxycarbonyl 2-chloro-4,5-dihydroxyphenylglycine
Acetic acid (27 ml), concentrated sulphuric acid (3 ml) then 4-chlorocatechol (5.06 g. 35 mmole) were added to N-benzyloxycarbonyl 2-hydroxyglycine (6.75 g, 30 mmole) cooled in an ice bath. The mixture was stirred for one hour then poured onto ice and ethyl acetate and adjusted to pH7 with saturated sodium carbonate solution. The aqueous layer was collected, washed with ethyl acetate (100 ml), acidified to pH2 and extracted with ethyl acetate (3×75 ml). The extracts were washed with water (2×75 ml) and brine (50 ml) dried and evaporated to a gum which was crystallised from chloroform-cyclohexane, 5.90 g, 56%, mp 144°-145°, δ[(CD3)2CO] 5.06 (2H, s, OCH2), 5.64(1H, d, J8 Hz, CHNH), 6.6-7.0(1H, m, NH), 6.87 and 6.93(2H, 2×s, Ar), 7.30(5H, s, Ph) 8.0-9.4(3H, broad, 2×OH, CO2H). Found: C. 54.29; H, 4.04; Cl, 9.71; N, 4.07%. C16H14ClNO6 requires C, 54.63; H, 4.01; Cl, 10.08; N, 3.98%.

reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-chlorocatechol | 35 mmole, 5.06 g | ClC=1C=C(C(O)=CC1)O | C6H5ClO2
reactant | N-benzyloxycarbonyl 2-hydroxyglycine | 30 mmole, 6.75 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)O | C10H11NO5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Acetic acid | 27 ml | C(C)(=O)O | C2H4O2
product | N-Benzyloxycarbonyl 2-chloro-4,5-dihydroxyphenylglycine | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)C1=C(C=C(C(=C1)O)O)Cl | C16H14ClNO6
